US06204293B1
To a suspension in DMF (3.5 mL) of sodium hydride (60% in mineral oil, 52 mg, 1.3 mmol) was added 2-thiophenemethanol (0.135 mL, 1.4 mmol) and the reaction mixture was stirred for 1.25 hours. 4-bromomethyl-2-(2-methylphenyl)benzoic acid methyl ester (0.35 mL, 1.2 mmol) was added and the reaction mixture was stirred for 2 hours. The reaction mixture was partitioned between water and ether. The aqueous phase was extracted with ether. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel (3% ethyl acetate-hexane) gave 4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoic acid methyl ester (250 mg).

reactant | sodium hydride | 1.3 mmol, 52 mg | [H-].[Na+]
reactant | 2-thiophenemethanol | 1.4 mmol, 0.135 mL | S1C(=CC=C1)CO | C5H6OS
reactant | 4-bromomethyl-2-(2-methylphenyl)benzoic acid methyl ester | 1.2 mmol, 0.35 mL | COC(C1=C(C=C(C=C1)CBr)C1=C(C=CC=C1)C)=O | C16H15BrO2
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | 4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoic acid methyl ester | 250 mg | COC(C1=C(C=C(C=C1)COCC=1SC=CC1)C1=C(C=CC=C1)C)=O | C21H20O3S
